US05849732
Conc. hydrochloric acid (1.5 ml) was added to 30 ml of a methanol solution containing 2.2 g of [2-(3-phenyl-ureido)-4-methoxy-6-tert-butylphenoxy]methoxymethane and the mixture was stirred at room temperature for 1.5 hours. The solvent was removed under reduced pressure and the residue was extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed under reduced pressure. Hexane was added to the residue and the resulting crystals were collected by filtration and recrystallized from a mixed solution of ethyl acetate and hexane to give 1.6 g of 2-(3-phenylureido)-4-methoxy-6-tert-butylphenol (yield: 83%, melting point: 147°-149° C., IR: 3400, 3350, 1670 cm-1).

reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | [2-(3-phenyl-ureido)-4-methoxy-6-tert-butylphenoxy]methoxymethane | 2.2 g | C1(=CC=CC=C1)NC(NC1=C(OCOC)C(=CC(=C1)OC)C(C)(C)C)=O | C20H26N2O4
solvent | methanol | 30 ml | CO | CH4O
product | 2-(3-phenylureido)-4-methoxy-6-tert-butylphenol | 1.6 g, yield: 83% | C1(=CC=CC=C1)NC(NC1=C(C(=CC(=C1)OC)C(C)(C)C)O)=O | C18H22N2O3
